US04013692
3-Phenyl-7-benzofuranacetic acid, 6.0 g., is heated for 15 minutes with 3.4 g. of sulfuryl chloride in 50 ml. of benzene then left at room temperature overnight to give 2-chloro-3-phenyl-7-benzofuranacetic acid which precipitates from the reaction mixture. Recrystallization from benzene-hexane gives material of m.p. 150.5°-152° C.

reactant | 3-Phenyl-7-benzofuranacetic acid | C1(=CC=CC=C1)C1=C(OC=2C(C=CC2)=C1)CC(=O)O | C16H12O3
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-chloro-3-phenyl-7-benzofuranacetic acid | ClC1(OC=2C(C=CC2)=CC1C1=CC=CC=C1)CC(=O)O | C16H13ClO3
